US07666878B2
To a solution of (4-chloro-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester (58 mg, 0.24 mmol) in DMF (1.2 mL) is added BEMP (113 μL, 0.39 mmol). The reaction mixture is stirred at ambient temperature for 40 minutes. 3,4-Dichloro-benzenesulfonyl chloride (60 μL, 0.39 mmol) is added and the reaction mixture is stirred for 10 minutes at ambient temperature. The reaction mixture is poured into ice cold water, extracted with EtOAc, washed with brine, dried (Na2SO4) and evaporated. The crude product is purified by column chromatography on silica gel using 1:8 EtOAc/iso-hexane as the eluent, furnishing [4-chloro-1-(3,4-dichloro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-yl]-acetic acid methyl ester; MH+=449.

reactant | (4-chloro-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | 0.24 mmol, 58 mg | COC(CC1=C(NC2=NC=CC(=C21)Cl)C)=O | C11H11ClN2O2
reactant | BEMP | 0.39 mmol, 113 μL | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | 3,4-Dichloro-benzenesulfonyl chloride | 0.39 mmol, 60 μL | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
product | [4-chloro-1-(3,4-dichloro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC(=C21)Cl)S(=O)(=O)C2=CC(=C(C=C2)Cl)Cl)C)=O | C17H13Cl3N2O4S
